US09108948B2
2-Butyl-[1,3,2]dioxaborolane-(R,R)-4,5-dicarboxylic acid bis-dimethylamide
2-(But-1-yl)-tetrahydro-4H-1,3,6,2-dioxazaborocine [CAS 92527-13-4] (3 g, 17.5 mmol), which was prepared from n-butylboronic acid and 2-(2-hydroxy-ethylamino)-ethanol [CAS 111-42-2] as reported in Organic Synthesis, 1998, 76, 86-96, and (2R,3R)-2,3-dihydroxy-N,N,N′,N′-tetramethyl-butanediamide [CAS 26549-65-5] (9.85 g) were dissolved in anhydrous dichloromethane (160 mL) under N2. Brine (25 mL) was added. The resulting mixture was stirred at room temperature for about 16 hours. The two layers were separated, and the aqueous layer was extracted with dichloromethane. The combined organic layers were washed with 50 mL brine, dried over MgSO4, filtered and concentrated in vacuo to provide the title compound as an oil.

reactant | n-butylboronic acid | C(CCC)B(O)O | C4H11BO2
reactant | 2-(2-hydroxy-ethylamino)-ethanol | OCCNCCO | C4H11NO2
reactant | (2R,3R)-2,3-dihydroxy-N,N,N′,N′-tetramethyl-butanediamide | 9.85 g | O[C@@H](C(=O)N(C)C)[C@H](C(=O)N(C)C)O | C8H16N2O4
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
solvent | Brine | 25 mL | [Cl-].[Na+].O
product | 2-(But-1-yl)-tetrahydro-4H-1,3,6,2-dioxazaborocine | 17.5 mmol, 3 g | C(CCC)B1OCCNCCO1 | C8H18BNO2
